### PR TITLE
[Merged by Bors] - chore: `Matrix.mulVec` and `Matrix.vecMul` get infix notation

### PR DESCRIPTION
**Pull request by madvorak**
Zulip discussion:
https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Notation.20for.20mul_vec.20and.20vec_mul

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Archive/Wiedijk100Theorems/FriendshipGraphs.lean [hunk 1]
```diff
@@ -178,7 +178,7 @@ theorem isRegularOf_not_existsPolitician (hG' : ¬ExistsPolitician G) :
   This essentially means that the graph has `d ^ 2 - d + 1` vertices. -/
 theorem card_of_regular (hd : G.IsRegularOfDegree d) : d + (Fintype.card V - 1) = d * d := by
   have v := Classical.arbitrary V
-  trans (G.adjMatrix ℕ ^ 2).mulVec (fun _ => 1) v
+  trans (G.adjMatrix ℕ ^ 2) ·ᵥ (fun _ => 1) v
```
Comment (newell) [inline Archive/Wiedijk100Theorems/FriendshipGraphs.lean:181]: Looks like you used a dot here.

Comment (madvorak) [reply Archive/Wiedijk100Theorems/FriendshipGraphs.lean]: Thanks!

File: Mathlib/Data/Matrix/Notation.lean [hunk 2]
```diff
@@ -280,32 +280,32 @@ section VecMul
...
 @[simp]
-theorem vecMul_empty [Fintype n'] (v : n' → α) (B : Matrix n' (Fin 0) α) : vecMul v B = ![] :=
+theorem vecMul_empty [Fintype n'] (v : n' → α) (B : Matrix n' (Fin 0) α) : v ᵥ* B = ![] :=
   empty_eq _
 #align matrix.vec_mul_empty Matrix.vecMul_empty
 
 @[simp]
 theorem cons_vecMul (x : α) (v : Fin n → α) (B : Fin n.succ → o' → α) :
-    vecMul (vecCons x v) (of B) = x • vecHead B + vecMul v (of <| vecTail B) := by
+    vecCons x v ᵥ* (of B) = x • vecHead B + v ᵥ* (of <| vecTail B) := by
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Notation.lean:294]: Now that the precedence has changed, this can become
```suggestion
    vecCons x v ᵥ* of B = x • vecHead B + v ᵥ* of (vecTail B) := by
```
similarly in many place where there are `()`s (it looks like you already cleaned up one of the arguments, thanks!)

File: Mathlib/LinearAlgebra/Matrix/LDL.lean [hunk 3]
```diff
@@ -77,13 +77,13 @@ noncomputable instance LDL.invertibleLowerInv : Invertible (LDL.lowerInv hS) :=
 #align LDL.invertible_lower_inv LDL.invertibleLowerInv
 
 theorem LDL.lowerInv_orthogonal {i j : n} (h₀ : i ≠ j) :
-    ⟪LDL.lowerInv hS i, Sᵀ.mulVec (LDL.lowerInv hS j)⟫ₑ = 0 :=
+    ⟪LDL.lowerInv hS i, Sᵀ *ᵥ (LDL.lowerInv hS j)⟫ₑ = 0 :=
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/LDL.lean:80]:
```suggestion
    ⟪LDL.lowerInv hS i, Sᵀ *ᵥ LDL.lowerInv hS j⟫ₑ = 0 :=
```

File: Mathlib/Data/Matrix/Notation.lean (hunk 2 above)
Comment (madvorak) [reply Mathlib/Data/Matrix/Notation.lean:294]: Yeah, I was cleaning almost all the places, but `of` without `()` was giving me the ick.

File: Mathlib/Data/Matrix/Basic.lean [hunk 4]
```diff
@@ -1705,117 +1715,117 @@ def mulVec.addMonoidHomLeft [Fintype n] (v : n → α) : Matrix m n α →+ m 
...
 theorem vecMul_diagonal [Fintype m] [DecidableEq m] (v w : m → α) (x : m) :
-    vecMul v (diagonal w) x = v x * w x :=
+    (v ᵥ* diagonal w) x = v x * w x :=
   dotProduct_diagonal' v w x
 #align matrix.vec_mul_diagonal Matrix.vecMul_diagonal
 
 /-- Associate the dot product of `mulVec` to the left. -/
 theorem dotProduct_mulVec [Fintype n] [Fintype m] [NonUnitalSemiring R] (v : m → R)
-    (A : Matrix m n R) (w : n → R) : v ⬝ᵥ mulVec A w = vecMul v A ⬝ᵥ w := by
+    (A : Matrix m n R) (w : n → R) : v ⬝ᵥ A *ᵥ w = v ᵥ* A ⬝ᵥ w := by
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basic.lean:1733]: A note for other reviewers; this lemma is a nice demonstration that the precedence is probably correct.

File: Mathlib/Data/Matrix/Basic.lean
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basic.lean:1]: Please explain the new notation in the module docstring

File: Mathlib/Data/Matrix/Basic.lean [hunk 5]
```diff
@@ -1684,17 +1686,27 @@ def mulVec [Fintype n] (M : Matrix m n α) (v : n → α) : m → α
   | i => (fun j => M i j) ⬝ᵥ v
 #align matrix.mul_vec Matrix.mulVec
 
+/- The precedence of 73 comes immediately before ` ⬝ᵥ ` for `Matrix.dotProduct`
+   so that `A *ᵥ v ⬝ᵥ B *ᵥ w` is parsed as `(A *ᵥ v) ⬝ᵥ (B *ᵥ w)` here. -/
```
Comment (kmill) [inline Mathlib/Data/Matrix/Basic.lean:1690]: I think we should update the `mulVec` docstring and move this precedence note into it. Maybe
```
/-- 
`M *ᵥ v` (notation for `mulVec M v`) is the matrix-vector product of a matrix `M` and vector `v`,
where `v` is seen as a column vector.
Put another way, `M *ᵥ v` is the vector whose entries
are those of `M * col v` (see `col_mulVec`).

The notation has precedence 73, which comes immediately before ` ⬝ᵥ ` for `Matrix.dotProduct`,
so that `A *ᵥ v ⬝ᵥ B *ᵥ w` is parsed as `(A *ᵥ v) ⬝ᵥ (B *ᵥ w)`.
-/
```
Similarly for `vecMul`.

Comment (madvorak) [reply Mathlib/Data/Matrix/Basic.lean]: Done. Please doublecheck.

Comment (kmill) [reply Mathlib/Data/Matrix/Basic.lean]: Thanks, looks good

**Review by kmill — APPROVED** [review]
I'm going to ask another maintainer to double-check, but I think this looks good.

maintainer merge

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
